US04556655
Add 2(S)-(p-toluenesulfonyloxy)propionic acid (4.4 g) to a cold solution of 10 ml of isobutylene and 0.4 ml of concentrated sulfuric acid in 30 ml of methylene chloride in a pressure vessel, seal, and agitate at room temperature for 48 hours. Pour into 50 ml of 15% sodium carbonate solution, dry over magnesium sulfate and concentrate to obtain t-butyl 2(S)-(p-toluenesulfonyloxy)propionate as an oil (NMR δ1.37). Distilled material (Kugelrohr, 120°) has [α]D26 =-45.9° (EtOH, c=1).

reactant | 2(S)-(p-toluenesulfonyloxy)propionic acid | 4.4 g | C1(=CC=C(C=C1)S(=O)(=O)O[C@H](C(=O)O)C)C | C10H12O5S
reactant | isobutylene | 10 ml | CC(C)=C | C4H8
reactant | sulfuric acid | 0.4 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | 50 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | t-butyl 2(S)-(p-toluenesulfonyloxy)propionate | C1(=CC=C(C=C1)S(=O)(=O)O[C@H](C(=O)OC(C)(C)C)C)C | C14H20O5S
